US09062060B2
2-([1,2,4]Triazolo[1,5-a]pyridin-2-ylsulfanylmethyl)-5H-imidazo[2,1-a]isoindole
An adaptation of the method described in WO 96/01826 was used. Imidazole-1-carbothioic acid (2-imino-2H-pyridin-1-yl)-amide (200 mg, 1.37 mmol) and 2-Chloromethyl-5H-imidazo[2,1-a]isoindole (300 mg, 1.46 mmol) were dissolved in 1-propanol (25 mL) and the mixture was heated to reflux for 2 hours. The solvent was removed under reduced pressure and the residue dissolved in dichloromethane. The solution was washed with water and the organic layer was dried over Na2SO4 and concentrated. The residue was purified by chromatography on silica gel to afford the title compound (273 mg, 62%) as a yellow solid. LC-MS: m/z=321.1 (MH+). tR=1.40 min, method B.

reactant | Imidazole-1-carbothioic acid (2-imino-2H-pyridin-1-yl)-amide | 1.37 mmol, 200 mg | N=C1N(C=CC=C1)NC(=S)N1C=NC=C1 | C9H9N5S
reactant | 2-Chloromethyl-5H-imidazo[2,1-a]isoindole | 1.46 mmol, 300 mg | ClCC=1N=C2N(CC3=CC=CC=C23)C1 | C11H9ClN2
solvent | 1-propanol | 25 mL | C(CC)O | C3H8O
product | 2-([1,2,4]Triazolo[1,5-a]pyridin-2-ylsulfanylmethyl)-5H-imidazo[2,1-a]isoindole | 273 mg, 62% | N=1C(=NN2C1C=CC=C2)SCC=2N=C1N(CC3=CC=CC=C13)C2 | C17H13N5S
